US07354944B2
1-Acetyl-3-((E)-(3-methyl-1H-pyrazolo[3,4-b]pyridin-5-yl)methyleneamino)isothiourea:
The staring material 1-((3-methyl-1H-pyrazolo[3,4-b]pyridin-5-yl)methylene)thiosemicarbazide (500 mg, 2.0 mmol) and acetic anhydride (20 ml) was mixed and heated to 80° C. for 1 hour. The reaction mixture was then cooled down to room temperature. The yellow solid was precipitated out and was filtered off. The yellow solid was washed with ether (50 ml). The product was obtained in quantitative yield and used for the next step without further purification.

reactant | 1-((3-methyl-1H-pyrazolo[3,4-b]pyridin-5-yl)methylene)thiosemicarbazide | 2.0 mmol, 500 mg | CC1=NNC2=NC=C(C=C21)C=NNC(=S)N | C9H10N6S
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-Acetyl-3-((E)-(3-methyl-1H-pyrazolo[3,4-b]pyridin-5-yl)methyleneamino)isothiourea | quantitative yield | C(C)(=O)NC(S)=N/N=C/C=1C=C2C(=NC1)NN=C2C | C11H12N6OS
